US04968823
The same apparatus as used in Example 1 was employed. To the flask were continuously fed 1,075 g of 30% aqueous sodium hydroxide solution and 1,500 g of a cyclohexane solution which had been prepared by dissolving, in 750 g of cyclohexane, 750 g of di-n-butyltin dibromide containing 1.8% tri-n-butyltin bromide and 1.5% mono-n-butyltin tribromide. The above feeding was performed with stirring and heating at 70° C., to conduct hydrolysis for 45 minutes. To the resulting reaction mixture overflowed was added 3,600 g of water, and the mixture was then allowed to stand, whereby it split into three distinct phases. The specific gravities of the upper, intermediate and lower phases were 0.6, 1.1 and 1.3 respectively. The lower phase was separated out, washed with water, and then dried under reduced pressure, thereby obtaining 445 g of a white substance of di-n-butyltin oxide. Acid titration revealed that its purity was 99.8%, and the oxide had an average particle diameter of 50 μm.

reactant | sodium hydroxide | 1,075 g | [OH-].[Na+]
reactant | di-n-butyltin dibromide | 750 g | C(CCC)[Sn](CCCC)(Br)Br
reactant | mono-n-butyltin tribromide | C(CCC)[Sn](Br)(Br)Br
reactant | water | 3,600 g | O | H2O
solvent | cyclohexane | 750 g | C1CCCCC1 | C6H12
solvent | cyclohexane | 1,500 g | C1CCCCC1 | C6H12
product | di-n-butyltin oxide | C(CCC)[Sn](CCCC)=O | InChI=1S/2C4H9.O.Sn/c2*1-3-4-2;;/h2*1,3-4H2,2H3;;
